US05849764
2-(3,5-dimethylphenyl)-3-{2-[4-(3-methylisoxazol-5-yl)butylamino]-ethyl-}-1H-indole-5-carboxylic acid diisobutylamide
To a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide (prepared essentially as described in Example 5.1, 83 mg in 2.5 mL dry CDCl3) at 0° C. was added 240 mg magnesium sulfate followed by 30.6 mg 4-(3-methylisoxazol-5-yl)-butyraldehyde and the mixture stirred at low temperature. After 15 minutes, a cold solution of sodium borohydride (30.2 mg in 1.5 mL dry methanol) was added and the mixture stirred for an additional 15 minutes. At this time the reaction was quenched by the addition of water, extracted with ethyl acetate then methylene chloride and the combined organics dried over sodium sulfate. Purification of the concentrate by preparative TLC on silica gel (methylene chloride:methanol, 9:1) gave the title compound (28 mg). m/e=557 (M+H)

reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)CC(C)C | C27H37N3O
reactant | magnesium sulfate | 240 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-(3-methylisoxazol-5-yl)-butyraldehyde | 30.6 mg | CC1=NOC(=C1)CCCC=O | C8H11NO2
reactant | sodium borohydride | 1.5 mL, 30.2 mg | [BH4-].[Na+]
product | 2-(3,5-dimethylphenyl)-3-{2-[4-(3-methylisoxazol-5-yl)butylamino]-ethyl-}-1H-indole-5-carboxylic acid diisobutylamide | 28 mg | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC(=NO1)C)CC(C)C | C35H48N4O2
